US07199120B2
A dry flask charged with dry N,N-dimethylformamide (100 mL) was treated with phosphorous oxychloride (8.8 mL, 94 mmol). The resultant solution was stirred at room temperature for 1 hour. 7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine (14.6 g, 63 mmol) was added and the reaction mixture was stirred for 2.5 hours. Water and dichloromethane were added to quench the reaction. The aqueous phase and organic phase were separated. The aqueous phase was extracted with dichloromethane. The organics were combined and washed with water, dried over magnesium sulfate, filtered and the filtrate was concentrated. Crystallization from a small amount of methanol gave 7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (12.4 g, 760%) as a peach color crystalline compound. 1H NMR (CDCl3): δ 10.58 (s, 1H), 8.43 (d, 1H), 7.58 (d, 1H), 7.48 (t, 1H), 7.21 (d, 1H), 6.51 (d, 1H), 2.56 (s, 3H). MS m/261 (M+1).

reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 94 mmol, 8.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine | 63 mmol, 14.6 g | ClC1=CC=CC=2N1N=C(C2)C=2OC=CC2C | C12H9ClN2O
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 12.4 g, 760% | ClC1=CC=CC=2N1N=C(C2C=O)C=2OC=CC2C | C13H9ClN2O2
